US05095038
f. Methyl 4-[7-(cyclopentylacetamido)naphth-1-ylmethyl]-3-methoxybenzoate
A mixture of activated zinc dust (806 mg), methyl 4-bromomethyl-3-methoxybenzoate (2.14 g) and tetrahydrofuran (15 ml) was stirred for 18 h. To the reaction was added dichloro[1,1'-bis(diphenylphosphino)ferrocene]palladium(II) (76 mg). After stirring for 15 min, 7-(cyclopentylacetamido)naphth-1-yl triflate (830 mg) in tetrahydrofuran (10 ml) was added and the mixture was stirred for 72 h. The mixture was added to 100 ml of ethyl acetate and the ethyl acetate solution was washed (1N HCl, brine), dried (MgSO4) and evaporated. The residue was flash chromatographed, eluting with ether:petroleum ether (2:8,4:6, and 1:4, successively), to give a white solid. Recrystallization from methylene chloride and petroleum ether gave the title compound as a colorless solid (705 mg, 79%); mp 172.5°-174.5° C.

reactant | methyl 4-bromomethyl-3-methoxybenzoate | 2.14 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | 7-(cyclopentylacetamido)naphth-1-yl triflate | 830 mg | O(S(=O)(=O)C(F)(F)F)C1=CC=CC2=CC=C(C=C12)NC(CC1CCCC1)=O | C18H18F3NO4S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | zinc | 806 mg | [Zn] | Zn
catalyst | dichloro[1,1'-bis(diphenylphosphino)ferrocene]palladium(II) | 76 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Methyl 4-[7-(cyclopentylacetamido)naphth-1-ylmethyl]-3-methoxybenzoate | 705 mg, 79% | C1(CCCC1)CC(=O)NC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C27H29NO4
